US08349850B2
2-((4-(pyrimidin-2-yl)piperazin-1-yl)methyl)quinazolin-4(1H)-one
300 mg of 2-(chloromethyl)quinazolin-4(3H)-one and 300 mg 2-(piperazin-1-yl)pyrimidine were dissolved in 5 ml of DMF at room temperature. After a few seconds, 0.5 ml of triethylamine was added, and the reaction mixture was stirred at ambient temperature, while being monitored by TLC. Once the reaction was completed (overnight), additional 0.2 ml of triethylamine was added, followed by 3 ml of water, and the mixture was cooled to 0° C. The solid precipitate was thereafter collected by vacuum filtration, washed with cold water and dried for 2 hours at 50° C., to give 370 mg (75% yield) of the product.

reactant | 2-(chloromethyl)quinazolin-4(3H)-one | 300 mg | ClCC1=NC2=CC=CC=C2C(N1)=O | C9H7ClN2O
reactant | 2-(piperazin-1-yl)pyrimidine | 300 mg | N1(CCNCC1)C1=NC=CC=N1 | C8H12N4
reactant | triethylamine | 0.5 ml | C(C)N(CC)CC | C6H15N
reactant | triethylamine | 0.2 ml | C(C)N(CC)CC | C6H15N
reactant | water | 3 ml | O | H2O
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
product | 2-((4-(pyrimidin-2-yl)piperazin-1-yl)methyl)quinazolin-4(1H)-one | 370 mg, 75% yield | N1=C(N=CC=C1)N1CCN(CC1)CC=1NC2=CC=CC=C2C(N1)=O | C17H18N6O
